US07244776B2
N-(4-Dodecyloxyphenyl)oxalamic acid ethyl ester
In a 1 L jacketed flask under a nitrogen atmosphere is added 60 g (0.2425 mols) of p-dodecyloxyaniline, 650 mL of CH2Cl2 and 56.6 g of pyridine (0.716 mols) and the resulting solution is cooled to 0° C. Maintaining an internal temperature below 5° C., 46.3 g (0.339 mols) of ethyl chlorooxoacetate is then added dropwise over a period of one hour. After the addition is complete, the internal temperature is maintained at 10° C. overnight. To the resultant reaction mixture is added rapidly 400 mL of 1N HCl and the resultant mixture is allowed to warm to RT. The reaction mixture is stirred for one hour than the organic phase separated. The organic phase is dried over anhydrous sodium sulphate and isolubles removed by filtration. The volatiles are removed in vacuo and the residue is recrystallized from ethanol (250 mL). The solid is washed twice with ethanol (50 mL) at 0° C. to give 64.1 g of a white solid, mp. 70.5–72° C. The NMR, MS and IR spectra are consistent with the product.

reactant | p-dodecyloxyaniline | 0.2425 mols, 60 g | C(CCCCCCCCCCC)OC1=CC=C(N)C=C1 | C18H31NO
reactant | pyridine | 0.716 mols, 56.6 g | N1=CC=CC=C1 | C5H5N
reactant | ethyl chlorooxoacetate | 0.339 mols, 46.3 g | ClC(C(=O)OCC)=O | C4H5ClO3
reactant | HCl | 1N, 400 mL | Cl | ClH
solvent | CH2Cl2 | 650 mL | C(Cl)Cl | CH2Cl2
product | N-(4-Dodecyloxyphenyl)oxalamic acid ethyl ester | 64.1 g | C(C)OC(C(=O)NC1=CC=C(C=C1)OCCCCCCCCCCCC)=O | C22H35NO4
